US09415047B2
6-fluoro-1H-benzotriazole (13.7 g, 0.10 mol) is dissolved into 100 ml of 30% wt. sodium hydroxide, 4-chlorobromobutane (34.3 g, 0.20 mol), tetrabutyl ammonium bromide (0.8 g) are added, and mixed for 5 min. The reaction solution is gradually heated to 60° C., stirred for reaction for 2 hours. Post treatment was performed based on common method one for synthesis. The solution was separated and purified by HPLC to produce 8.9 g of 1-(4-chlorobutyl)-6-fluoro-1H-benzotriazole, with a yield of 39.0%.

reactant | 6-fluoro-1H-benzotriazole | 0.10 mol, 13.7 g | FC=1C=CC2=C(NN=N2)C1 | C6H4FN3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-chlorobromobutane | 0.20 mol, 34.3 g | ClCCCCBr | C4H8BrCl
catalyst | tetrabutyl ammonium bromide | 0.8 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(4-chlorobutyl)-6-fluoro-1H-benzotriazole | 8.9 g, yield of 39.0% | ClCCCCN1N=NC2=C1C=C(C=C2)F | C10H11ClFN3
